US04952600
A mixture of 25 g of (S)-4-hydroxy-1-(2-propynyl)-2-pyrrolidinone, 39.8 g of t-butyldimethylsilyl chloride and 38.5 ml of triethylamine in 200 ml of dichloromethane was stirred under argon overnight. The mixture was washed with 300 ml of water, dried and evaporated. The residual oil was purified by chromatography, (silica gel) giving 42.7 g of (S)-4-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-(2-propynyl)-2-pyrrolidinone.

reactant | (S)-4-hydroxy-1-(2-propynyl)-2-pyrrolidinone | 25 g | O[C@H]1CC(N(C1)CC#C)=O | C7H9NO2
reactant | t-butyldimethylsilyl chloride | 39.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 38.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (S)-4-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-(2-propynyl)-2-pyrrolidinone | 42.7 g | CC(C)(C)[Si](O[C@H]1CC(N(C1)CC#C)=O)(C)C | C13H23NO2Si
